US05030641
1-Isopropylaminocarbonyl-4-nitroxypiperidine
7 g. 4-Nitroxypiperidine are dissolved in 25 ml. ethyl acetate and mixed with 5.2 ml. isopropyl isocyanate while cooling with ice water to 0°to 5° C. The reaction mixture is stirred for 2 hours at 10° C. and then evaporated in a vacuum. The residue is taken up in diethyl ether and the precipitated crystals are filtered off with suction. There are obtained 6.6 g. of the title compound; m.p. 93°-95° C., 60% of theory.

reactant | 4-Nitroxypiperidine | O([N+](=O)[O-])C1CCNCC1 | C5H10N2O3
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Isopropylaminocarbonyl-4-nitroxypiperidine | C(C)(C)NC(=O)N1CCC(CC1)O[N+](=O)[O-] | C9H17N3O4
